Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
pain after vulvar punch biopsies for lichen sclerosis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ y/o ___ s/p two punch vulvar biopsies 
___ with lichen sclerosis c/b cellulitis of the R labial 
biopsy site previously on Bactrim. Patient states that since her 
two punch biopsies on ___, she has had constant ___ burning 
pain in right labia, reasonably controlled with Motrin PRN. She 
began taking Bactrim BID on ___ morning, however the pain has 
persisted. She states that her right labia was swollen to ~5x 
normal size, but has improved
since starting Bactrim. She also reports minimal thin yellowish 
drainage from right labia since biopsied, which has been 
staining her underwear. She reports intermittent nausea which 
she attributes to pain. Tolerating PO. Voiding 
spontaneously.Ambulating. Reports minimal 
dizziness/lightheadedness today which
she attributes to decreased PO intake. She denies fevers/chills, 
dysuria, hematuria, vaginal bleeding. 
 
Past Medical History:
OB Hx: G4___
- ruptured ectopic s/p MTX requiring open L salpingectomy (___)
- SVD, term, male (___)
- SAB (___)
- SVD, term, female (___)

GYN Hx: denies abnormal Pap, STI, gyn surgery

PMH:
ACNE                                                            
ACUTE URTICARIA                                                 
ALLERGY                                                         
HYPOTHYROIDISM                                                  
NARCOLEPSY                                                      
ABNORMAL LIVER FUNCTION TESTS                                   
VILLOUS ADENOMA                                                 
ROSACEA                                                         
MULTIPLE STYES     

PSH:
-open salpingectomy (___)
 
Social History:
denies alcohol, tobacco, and illicit drug use
 
Physical Exam:
Day of Presentation:
Gen: comfortable, well appearing, husband present at bedside
CV: RRR
Pulm: LCTAB
Abd: soft, +BS, NTND, no rebound or guarding
Pelvic: erythematous, swollen right labia majora up to mons 
pubis
~8cm in length (marked), no induration or fluctuance, reports
constant tenderness which is not increased with palpation, no
warmth; hardened right labial minora biopsy site with yellowish
thin discharge with ~0.5cm opening, white region of right and
left labia minora, left biopsy site well healing, no inguinal
TTP, no LAD palpable

Day of Discharge:
Gen: NAD, A+O x3
Pulm: CTAB, no w/r/r
CV: RRR, no m/r/g
Abd: soft, nontender
Pelvic: R labia majorum edematous to inferior mons, 
approximately
7cm in length with induration, no flucuance, minimal overlying
erythema, minimally TPP, R labial minora biopsy site with white
edutate, no purulent drainage, no drainage on expression, no
crepitus, L biopsy site intact, healing well
Ext: nontender, w/o edema
 
Pertinent Results:
___ 01:34PM   CREAT-0.8
___ 01:34PM   estGFR-Using this
___ 01:34PM   WBC-6.3 RBC-4.05 HGB-12.1 HCT-37.4 MCV-92 
MCH-29.9 MCHC-32.4 RDW-13.5 RDWSD-46.5*
___ 01:34PM   NEUTS-57.9 ___ MONOS-8.9 EOS-4.0 
BASOS-1.0 IM ___ AbsNeut-3.64 AbsLymp-1.75 AbsMono-0.56 
AbsEos-0.25 AbsBaso-0.06
___ 01:34PM   PLT COUNT-___ G5P3 with newly diagnosed lichen sclerosis admitted on 
___ for vulvar cellulitis following vulvar biopsy after failed 
outpatient management of Bactrim x3 days. Patient had thin 
yellowish discharge from opening of right labial minora biopsy 
site, without evidence of necrotizing fasciitis. On initial 
exam, pelvic exam was notable for erythematous, swollen right 
labia majora up to mons pubis ~8cm in length (marked), no 
induration or fluctuance, reports constant tenderness which is 
not increased with palpation, no warmth; hardened right labial 
minora biopsy site with yellowish thin discharge with ~0.5cm 
opening, white region of right and left labia minora, left 
biopsy site well healing, no inguinal TTP, no LAD palpable. 
Patient was started on IV Vancomycin/Zosyn for likely vulvar 
cellulitis. Pelvic ultrasound revealed diffuse edema in soft 
tissue of right labia majorum, no drainable collection. On 
hospital day 2 (___), patient reported decreased pain and was 
overall feeling better. Pelvic exam was notable for right labia 
majorum edematous to inferior mons, approximately 7cm in length 
with induration, no flucuance, minimal overlying erythema, 
minimally TPP, R labial minora biopsy site with white exudate, 
no purulent drainage, no drainage on expression, no crepitus, L 
biopsy site intact, healing well. Patient was transitioned to 
oral antibiotics, per infectious disease recommendations, and 
remained afebrile and clinically well. Patient was discharged 
home in stable condition with outpatient follow up scheduled.
 
Medications on Admission:
CLOBETASOL - clobetasol 0.05 % topical cream. apply pea size
amount to affected areas nightly for 2 weeks then 2 times a week
for 6 weeks
LEVOTHYROXINE - levothyroxine 75 mcg tablet. TAKE 1 TABLET BY
MOUTH EVERY DAY
METHYLPHENIDATE HCL - methylphenidate 10 mg tablet. 1 tablet(s)
by mouth twice a day
METHYLPHENIDATE HCL [RITALIN] - Ritalin 5 mg tablet. 1 tablet(s)
by mouth qPM
SODIUM OXYBATE [XYREM] - Dosage uncertain -  (Prescribed by 
Other
Provider)
SULFAMETHOXAZOLE-TRIMETHOPRIM - sulfamethoxazole 800
mg-trimethoprim 160 mg tablet. 2 tablet(s) by mouth every 12
hours
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
please do not take more than 4000mg in 24 hrs 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*15 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q6H 
please complete full course of antibiotics 
RX *cephalexin 500 mg 1 tablet(s) by mouth every six hours Disp 
#*28 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
please take with food to avoid upset stomach 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six hours Disp 
#*15 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
please complete full course of anitbiotics 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth every 12 hours Disp #*14 Tablet Refills:*0 
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6.  MethylPHENIDATE (Ritalin) 10 mg PO BID  
7.  MethylPHENIDATE (Ritalin) 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vulvar cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service with vulvar 
cellulitis. You were treated with IV antibiotics and your 
infection has improved. You have recovered well and the team 
believes you are ready to be discharged home  with oral 
antibiotics. Please call ___ clinic with any questions or 
concerns (___). Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.

Incision care:
* You may shower and allow soapy water to run over biopsy site; 
no scrubbing of incision. No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* increased redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication
 
Followup Instructions:
___